data/mechanism_extracts/OrgLett/10.1021_acs.orglett.4c04426_sup_1.json
{"doi": "10.1021_acs.orglett.4c04426_sup_1", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Electrochemical carboxylative cyclization of 2-isocyano-styrenes with CO2 using a sacrificial Mg anode to give 2-oxindole-3-acetic acids.", "mechanism_family": ["radical_cathodic", "sacrificial_anode", "radical_polar_crossover"], "electrochemical_role": "Cathodic reduction generates a CO2 radical anion (and/or substrate-derived radical) while the Mg anode is sacrificially oxidized to Mg(II); the CO2 radical anion adds to the vinyl isocyanide, triggering radical cyclization onto the isocyano carbon.", "key_intermediates": [{"name": "CO2 radical anion", "smiles": "[O-]C(=O)[O]", "role": "reactive"}, {"name": "alpha-carboxyl benzyl radical from CO2 addition to vinyl group", "smiles": null, "role": "transient"}, {"name": "imidoyl radical from cyclization onto isocyanide carbon", "smiles": null, "role": "reactive"}, {"name": "imidoyl anion / Mg-amide after further reduction", "smiles": null, "role": "transient"}, {"name": "2-(1-formyl-5-methyl-2-oxo-3-phenylindolin-3-yl)acetic acid (2a)", "smiles": null, "role": "reactive"}], "electron_flow": "At the Fe cathode, CO2 is reduced to CO2 radical anion which adds to the terminal alkene of the 2-isocyanostyrene; the resulting benzylic radical cyclizes onto the isocyanide to form an imidoyl radical, which is further reduced and protonated/formylated, while the Mg anode is consumed to balance charge.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction completely suppressed; starting material 1a recovered in 86% yield, indicating a radical intermediate is intercepted."}, {"name": "BHT", "smiles": "CC(C)(C)c1cc(C)cc(C(C)(C)C)c1O", "purpose": "radical_trap", "observation": "Reaction partially proceeds, giving the desired acid 2a (22%) and the deformyl/desaturated byproduct 3a (3,5-dimethyl-2-oxo-3-phenylindoline-1-carbaldehyde, 21%), consistent with a radical pathway not fully quenched by BHT."}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "cyclic_voltammetry"], "evidence_strength": "medium", "notes": "Only the radical trapping experiments and a cyclic voltammetry section are visible on this page; CV data details and any DFT support are not shown. The formation of byproduct 3a under BHT conditions hints at a competing pathway lacking the CO2-derived carboxymethyl group, suggesting CO2 incorporation occurs after initial radical generation."}
